US07393852B2
Preparation of -3-((5R)-5-(2-(3-oxo-1-tosylpiperazin-2-yl)acetamido)-5,6,7,8-tetrahydronaphthalen-2-yl)benzamide
To a 25 mL pressure tube was added (R)-5-(2-(3-oxo-1-tosylpiperazin-2-yl)acetamido)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (150 mg, 0.25 mmol), benzamide-3-boronic acid (Frontier, 63 mg, 0.38 mmol), tetrakis(triphenylphosphine)-palladium (O) (Aldrich, 30 mg, 0.025 mmol), Toluene (1.5 mL), EtOH (0.4 μL), and 1M NaHCO3 (0.4 mL) at room temperature under N2. The reaction mixture was sealed and stirred at 80° C. overnight, cooled to room temperature, and diluted with EtOAc (40 mL). The organic layer was separated, washed with saturated NaHCO3, water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography to provide the title compound. MS (ES1): 561 (M+H)+.

reactant | (R)-5-(2-(3-oxo-1-tosylpiperazin-2-yl)acetamido)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | 0.25 mmol, 150 mg | FC(S(=O)(=O)OC1=CC=2CCC[C@H](C2C=C1)NC(CC1N(CCNC1=O)S(=O)(=O)C1=CC=C(C)C=C1)=O)(F)F | C24H26F3N3O7S2
reactant | benzamide-3-boronic acid | 0.38 mmol, 63 mg | B(C1=CC(=CC=C1)C(=O)N)(O)O | C7H8BNO3
reactant | Toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | NaHCO3 | 1M, 0.4 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium (O) | 0.025 mmol, 30 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | EtOH | 0.4 μL | CCO | C2H6O
product | 3-((5R)-5-(2-(3-oxo-1-tosylpiperazin-2-yl)acetamido)-5,6,7,8-tetrahydronaphthalen-2-yl)benzamide | O=C1C(N(CCN1)S(=O)(=O)C1=CC=C(C)C=C1)CC(=O)N[C@H]1C=2C=CC(=CC2CCC1)C=1C=C(C(=O)N)C=CC1 | C30H32N4O5S
